US07700628B2
A. tert-Butyl N-(2-methylallyl)carbamate
Potassium carbonate (14.17 g, 102.5 mmol) was added to a mixture of 2-methyl-allylamine hydrochloride in acetone (500 mL), followed by di-tert-butyl dicarbonate (12.18 g, 55.8 mmol). Water (200 mL) was added to get all of the solids to go into solution. After stirring overnight, the reaction was concentrated to less than 200 mL. The residue was extracted with ethyl acetate (2×). The organic layers were combined, dried over sodium sulfate, and concentrated. The crude residue was purified by flash column chromatography (5% EtOAc/hexanes) to give the desired product (7.11 g, 41.6 mmol, 89%) as a colorless oil.

reactant | Potassium carbonate | 102.5 mmol, 14.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-allylamine hydrochloride | Cl.CC(CN)=C
reactant | di-tert-butyl dicarbonate | 55.8 mmol, 12.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 200 mL | O | H2O
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | tert-Butyl N-(2-methylallyl)carbamate | 41.6 mmol, 7.11 g, 89% | CC(CNC(OC(C)(C)C)=O)=C | C9H17NO2
